US07488844B2
(ii) N-Butyl-N-(2,3-dimethoxybenzyl)amine
N-Butyl-2,3-dimethoxybenzamide (5.37 g, 22.6 mmol) was dissolved in freshly distilled THF (230 mL) and cooled in an ice bath under an argon atmosphere. Borane (28 mL of a 2 M solution of the dimethylsulfide complex in diethyl ether) was added and the ice bath was removed after 15 minutes. The reaction mixture was refluxed overnight and was then allowed to cool to room temperature. The reaction was quenched by careful addition of 10% HCl (11 mL) and the mixture was stirred for four hours and then concentrated in vacuo. The residue was taken up in ethyl acetate (300 mL) and washed with aqueous 2 M K2CO3 (3×100 mL), and brine (100 mL), dried over Na2SO4, and concentrated in vacuo. Purification on silica gel (160 g) with ethyl acetate (33-100% gradient) in heptane and finally 5% ethanol in ethyl acetate as the eluent yielded 2.74 g (54%) of a light yellow oil.

reactant | N-Butyl-2,3-dimethoxybenzamide | 22.6 mmol, 5.37 g | C(CCC)NC(C1=C(C(=CC=C1)OC)OC)=O | C13H19NO3
reactant | Borane | B | BH3
solvent | THF | 230 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-Butyl-N-(2,3-dimethoxybenzyl)amine | 2.74 g, 54% | C(CCC)NCC1=C(C(=CC=C1)OC)OC | C13H21NO2
